US07622583B2
4-Chloro-N-[5-chloro-2-(2-methoxy-6-methyl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-methyl-benzenesulfonamide was hydrolyzed using 4 M HCl in dioxane (12 mL), and water (4 mL) at 100° C. to provide 4-chloro-N-[5-chloro-2-(2-methoxy-6-methyl-benzoyl)-pyridin-3-yl]-3-methyl-benzenesulfonamide. The product was purified by HPLC. MS m/z: 465.4 (M+H).

reactant | 4-Chloro-N-[5-chloro-2-(2-methoxy-6-methyl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-methyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1C)OC)=O)C | C23H22Cl2N2O5S
reactant | HCl | 4 M | Cl | ClH
reactant | water | 4 mL | O | H2O
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[5-chloro-2-(2-methoxy-6-methyl-benzoyl)-pyridin-3-yl]-3-methyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1C)OC)=O)C | C21H18Cl2N2O4S
